US05145874
17β-t-Butyldimethylsilyloxy-5α-estran-3-one
10 g of 17β-hydroxy-5α-estran-3-one was dissolved in 150 ml of DMF. 3.7 g of imidazole were then added and the mixture was cooled to 0° C. 6.5 g of t-butyl dimethyl silyl chloride were added and the mixture was stirred and gradually warmed to room temperature followed by stirring for two days. TLC (hexane/EtOAc (9:1)) revealed that the reaction was complete. The reaction mixture was diluted with water and then extracted with 500 ml of hexane/EtOAc (9:1) (2×). The combined organic layers were washed with brine, dried over MgSO4, filtered, and evaporated under reduced pressure to produce crude product (14.6 g). The entire crude yield was flash chromatographed with the Aldrich flash chromatography system. The 600 ml column was filled with 7 inches of 230-400 mesh silica gel, eluting with hexane/EtOAc (10:1). Once the sample was loaded, 30 ml fractions were taken. Fraction numbers 4-13 yielded 14 g of the title compound, m.p. 103°-104° C.

reactant | 17β-hydroxy-5α-estran-3-one | 10 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@@H]3[C@H]1CC2)=O | C18H28O2
reactant | imidazole | 3.7 g | N1C=NC=C1 | C3H4N2
reactant | t-butyl dimethyl silyl chloride | 6.5 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 17β-t-Butyldimethylsilyloxy-5α-estran-3-one | 14 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@@H]3[C@H]1CC2)=O | C24H42O2Si
